US06303673B1
1,3-Dihydro-1,3,3-trimethyl-5-nitro-6′-(4-pyrrolidinophenyl)spiro-[2H-indole-2,2′[2H]naphth[1,2-b][1,4]oxazine]
From 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime and 1,3,3-trimethyl-2-methylene-5-nitroindoline. Yield=8%, m.p.=259.5-261.5° C., λmax=592 and 470 (sh.) nm in PhMe upon irradiation.

reactant | 4-(4-pyrrolidinophenyl)-1,2-naphthoquinone-2-oxime | N1(CCCC1)C1=CC=C(C=C1)C1=CC(C(C2=CC=CC=C12)=O)=NO | C20H18N2O2
reactant | 1,3,3-trimethyl-2-methylene-5-nitroindoline | CN1C(C(C2=CC(=CC=C12)[N+](=O)[O-])(C)C)=C | C12H14N2O2
solvent | PhMe | C1(=CC=CC=C1)C | C7H8
product | 1,3-Dihydro-1,3,3-trimethyl-5-nitro-6′-(4-pyrrolidinophenyl)spiro-[2H-indole-2,2′[2H]naphth[1,2-b][1,4]oxazine] | Yield=8% | CN1C2=CC=C(C=C2C(C12C=NC1=C(O2)C2=CC=CC=C2C(=C1)C1=CC=C(C=C1)N1CCCC1)(C)C)[N+](=O)[O-] | C32H30N4O3
